US08580859B2
To a solution of (S)-methyl 2-amino-4-(methylthio)butanoate (5 g, 30.7 mmol) in dioxane (50 mL) and water (20 mL) at room temperature was added sodium carbonate (5.3 g, 50 mmol) and boc anhydride (7.96 g, 36.8 mmol). The mixture was stirred overnight at room temperature followed by dioxane removal under vacuum. The aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with 1N HCl, brine, and dried over sodium sulfate, filtered and concentrated to give a residue, which was purified on silica gel column to give (S)-methyl 2-(tert-butoxycarbonylamino)-4-(methylthio)butanoate (5.1 g, 63%). MS calcd for (C11H21NO4S+H)+: 264.1; MS found: (M+H)+=264.1, 164.1 (-Boc).

reactant | (S)-methyl 2-amino-4-(methylthio)butanoate | 30.7 mmol, 5 g | N[C@H](C(=O)OC)CCSC | C6H13NO2S
reactant | sodium carbonate | 50 mmol, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | boc anhydride | 36.8 mmol, 7.96 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | (S)-methyl 2-(tert-butoxycarbonylamino)-4-(methylthio)butanoate | 5.1 g, 63% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CCSC | C11H21NO4S
